US05461038
Preparation of O-ethyl O-neopentyl thiophosphate potassium salt
Sixty One grams (260 mmole) of O-ethyl O-neopentyl chlorothiophosphate and 33.7 g (530 mmole) of 88% potassium hydroxide were mixed in 300 ml of ethyl alcohol and stirred at 22° C. for 60 hours. The precipitated potassium chloride was filtered off and the ethyl alcohol removed in vacuo. The resulting solid was washed with hexanes and diethyl ether yielding the title compound, a white solid.

reactant | O-ethyl O-neopentyl chlorothiophosphate | 260 mmole, Sixty One grams | P(=S)(OCC)(OCC(C)(C)C)Cl | C7H16ClO2PS
reactant | potassium hydroxide | 530 mmole, 33.7 g | [OH-].[K+]
solvent | ethyl alcohol | 300 ml | C(C)O | C2H6O
product | O-ethyl O-neopentyl thiophosphate potassium salt | [K+].P(=S)(OCC)(OCC(C)(C)C)[O-] | InChI=1S/C7H17O3PS.K/c1-5-9-11(8,12)10-6-7(2,3)4;/h5-6H2,1-4H3,(H,8,12);/q;+1/p-1
